US08729078B2
In a 25 mL round-bottomed flask 6-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-yl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (322 mg, 790 μmol, Eq: 1.00) was combined with DMF (11.9 ml) to give a colorless solution. The reaction mixture was cooled to −20° C. and stirred for 5 min. Chlorosulfonyl isocyanate (335 mg, 206 μl, 2.37 mmol, Eq: 3) in acetonitrile (11.9 ml) was added dropwise and the resultant cooled reaction was stirred at −20° C. and stirred for 3 hrs The reaction mixture was poured into 25 mL EtOAc and washed with sat NaCl (3×20 mL). After evaporation, crude material was purified by flash chromatography (silica gel, 12 g, 5% to 10% MeOH in DCM) to obtain 6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (122 mg, 56%).

reactant | 6-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-yl)-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | 790 μmol, 322 mg | O=S1(CCN(CC1)C1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)=O | C20H33N3O2SSi
reactant | DMF | 11.9 ml | CN(C)C=O | C3H7NO
reactant | Chlorosulfonyl isocyanate | 2.37 mmol, 206 μl, 335 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 11.9 ml | C(C)#N | C2H3N
product | 6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 122 mg, 56% | O=S1(CCN(CC1)C1=CC=C2C(=N1)NC=C2C#N)=O | C12H12N4O2S
